US05167691
Under a dry nitrogen atmosphere, a stirred mixture of 5.02 grams (0.0175 mole) of 5-amino-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-4-cyanopyrazole and 12.7 grams (0.161 mole) of pyridine in 470 mL of methylene chloride was cooled to 5° C. Acetyl chloride (12.5 grams, 0.159 mole) was added dropwise. After the addition was complete, the reaction mixture was heated at reflux for approximately 20 hours. The mixture was then cooled, treated with decolorizing charcoal, and filtered through a pad of Celite® filter aid. The filtrate was evaporated under reduced pressure, leaving a residue. This residue was stirred vigorously with a mixture of water and diethyl ether. The diethyl ether was allowed to evaporate at room temperature and pressure, leaving an aqueous slurry, which was cooled in an ice bath and then filtered. The filter cake was washed with water and air dried to yield 6.6 grams of 1-(3-chloro-5-trifluoromethylpyridin-2-yl)-4-cyano-5-bis(methylcarbonyl)aminopyrazole, m.p. 129.5-132° C. The nmr spectrum was consistent with the proposed structure.

reactant | 5-amino-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-4-cyanopyrazole | 0.0175 mole, 5.02 grams | NC1=C(C=NN1C1=NC=C(C=C1Cl)C(F)(F)F)C#N | C10H5ClF3N5
reactant | pyridine | 0.161 mole, 12.7 grams | N1=CC=CC=C1 | C5H5N
reactant | Acetyl chloride | 0.159 mole, 12.5 grams | C(C)(=O)Cl | C2H3ClO
reactant | charcoal | C | CH4
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 470 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-(3-chloro-5-trifluoromethylpyridin-2-yl)-4-cyano-5-bis(methylcarbonyl)aminopyrazole | 6.6 grams | ClC=1C(=NC=C(C1)C(F)(F)F)N1N=CC(=C1N(C(=O)C)C(=O)C)C#N | C14H9ClF3N5O2
